US04665075
To a stirred solution of 2.3 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-6-hydroxy-2-thioxo-4(1H)-quinazolinone monohydrochloride in 40 parts of methanol was added a sodium hydroxide solution 1N till pH=7. 0.37 Parts of sodium borohydride were added portionwise. Upon completion, stirring was continued for 20 hours at room temperature. The reaction mixture was poured into water. The whole was acidified with formic acid till pH=2. After stirring for 30 minutes at room temperature, the mixture was treated with ammonium hydroxide (an oily precipitate was formed). Trichloromethane was added. After 1 hour, the only precipitate was dissolved. The organic layer was separated and washed with water whereupon a precipitate was formed (=precipitate I). Then the organic layer was washed again with water, dried, filtered and evaporated (=residue I). Precipitate I and residue I were purified by column chromatography over silica gel using first a mixture of trichloromethane and methanol (90:10 by volume) and then a mixture of trichloromethane and methanol (80:20 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was boiled in 20 parts of 2-propanone and 17.5 parts of 2,2'-oxybispropane. The product was filtered off and dried at 100° C., yielding 0.6 parts (28.5%) of 3-[2-[4-[(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]ethyl]-2,3-dihydro-6-hydroxy-2-thioxo-4(1H)-quinazolinone; mp. 218.0° C. (25). Following the same procedure and using equivalent amount of the appropriate starting materials there was also prepared:

reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-6-hydroxy-2-thioxo-4(1H)-quinazolinone monohydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=C(C=C3C2=O)O)=S)C=C1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Trichloromethane | ClC(Cl)Cl | CHCl3
solvent | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-[2-[4-[(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]ethyl]-2,3-dihydro-6-hydroxy-2-thioxo-4(1H)-quinazolinone | 28.5% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCN1C(NC2=CC=C(C=C2C1=O)O)=S)O | C22H24FN3O3S
